US06255496B1
3-[4-[3-(N-dodecyl-N-methylamino)propoxy]phenyl]propanoic acid, methyl ester
Methyl 3-(4-hydroxyphenyl)propanoate (1.0 g, 5.5 mmol) and 3-(N-dodecyl-N-methylamino)propanol (1.43 g, 5.5 mmol) were reacted as described in example 1 to give 1.57 g (43%) of title material as an oil.

reactant | Methyl 3-(4-hydroxyphenyl)propanoate | 5.5 mmol, 1.0 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | 3-(N-dodecyl-N-methylamino)propanol | 5.5 mmol, 1.43 g | C(CCCCCCCCCCC)N(C)CCCO | C16H35NO
product | 3-[4-[3-(N-dodecyl-N-methylamino)propoxy]phenyl]propanoic acid, methyl ester | 1.57 g, 43% | C(CCCCCCCCCCC)N(C)CCCOC1=CC=C(C=C1)CCC(=O)OC | C26H45NO3
